US04788206
(E)-5,5-bis(3-chlorophenyl)-2,4-pentadienoic acid ethyl ester (10.5 g) in methanol (30 mL) was treated with 2N sodium hydroxide solution (20 mL) and the mixture was heated at reflux for 15 minutes. The crude solid, obtained from the usual work up, was crystallized from dichloromethane-hexane to furnish 8.95 g of (E)-5,5-bis(3-chlorophenyl)-2,4-pentadienoic acid, mp 167°-68° C. Recrystallization from ether-hexane gave the analytical specimen, mp 167°-168° C.

reactant | (E)-5,5-bis(3-chlorophenyl)-2,4-pentadienoic acid ethyl ester | 10.5 g | C(C)OC(\C=C\C=C(C1=CC(=CC=C1)Cl)C1=CC(=CC=C1)Cl)=O | C19H16Cl2O2
reactant | sodium hydroxide | 2N, 20 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E)-5,5-bis(3-chlorophenyl)-2,4-pentadienoic acid | 8.95 g | ClC=1C=C(C=CC1)C(=C/C=C/C(=O)O)C1=CC(=CC=C1)Cl | C17H12Cl2O2
